US05366972
a) 2-Chloro-4-methyl-3-nitropyridine
A mixture of 25 g of 2-hydroxy-4-methyl-3-nitropyridine, 12.5 g of phosphorous pentachloride, and 62 ml of phosphorous oxychloride was refluxed for 2 hrs. After cooling, the mixture was poured onto crashed ice and stirred until a precipitate formed. The product was extracted with methylene chloride, dried (sodium sulfate) and concentrated to a brown oil, which was washed with hot hexane. Concentration in vacuo provided 16.2 g of the the title compound, m.p. 45°-47° C.

reactant | 2-hydroxy-4-methyl-3-nitropyridine | 25 g | OC1=NC=CC(=C1[N+](=O)[O-])C | C6H6N2O3
reactant | phosphorous pentachloride | 12.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorous oxychloride | 62 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-methyl-3-nitropyridine | ClC1=NC=CC(=C1[N+](=O)[O-])C | C6H5ClN2O2
